US03989691
Following the procedure of Example 3, 4-chloro-6-methoxyquinoline was reacted with the reaction product of methyl triphenylphosphonium bromide and n-butyllithium. This reaction product was then reacted with N-acetyl-4-piperidine-acetaldehyde to produce 4-[3-(1-acetyl-4-piperidyl)-1-propenyl]-6-methoxyquinoline.

reactant | 4-chloro-6-methoxyquinoline | ClC1=CC=NC2=CC=C(C=C12)OC | C10H8ClNO
reactant | n-butyllithium | C(CCC)[Li]
reactant | N-acetyl-4-piperidine-acetaldehyde | C(C)(=O)N1CCC(CC1)CC=O | C9H15NO2
catalyst | methyl triphenylphosphonium bromide | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
product | 4-[3-(1-acetyl-4-piperidyl)-1-propenyl]-6-methoxyquinoline | C(C)(=O)N1CCC(CC1)CC=CC1=CC=NC2=CC=C(C=C12)OC | C20H24N2O2
